US08022099B2
c) [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine
To a solution of (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-ylamine (9.2 g, 0.028 mol) in THF (100 ml) was added a solution of K2CO3 (7.91 g, 0.057 mol) in H2O (35 ml). After 10 minutes, ethyl chloroformate (2.86 ml, 0.030 mol) was added and stirring was continued at RT for an additional 4 h. The intermediate carbamate was then extracted with Et2O, dried over Na2SO4 and concentrated under vacuo to give viscous oil. The oil was taken up in THF (100 ml) and a solution of borane in THF (1M) was added (114.5 ml). The reaction mixture was then heated at 65° C. over night, cooled to RT and carefully quenched with conc. HCl (100 ml). The mixture was then heated at 80° C. for 2 h, cooled to RT, concentrated under vacuo, diluted with Et2O (100 ml) and neutralized with an aqueous solution of NaHCO3. The organic phases were dried over Na2SO4 and the product purified by flash chromatography (SiO2, CH2Cl2/MeOH 9:1) to afford 7.31 g (76%) of the title compound as a colorless oil. ES-MS m/e: 335.3 (M+H+).

reactant | (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-ylamine | 0.028 mol, 9.2 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N | C17H18Cl2N2
reactant | K2CO3 | 0.057 mol, 7.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 0.030 mol, 2.86 ml | ClC(=O)OCC | C3H5ClO2
reactant | borane | B | BH3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | 35 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 7.31 g, 76% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)NC | C18H20Cl2N2
